US07528147B2
1.3 cm3 of aqueous 5N potassium hydroxide solution are added to a solution of 0.13 g of 2-[5,6-dimethoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-4-methyl-1H-pyrrolo[2,3-b]pyridine in 15 cm3 of methanol, at a temperature in the region of 20° C. The reaction medium is refluxed for about 18 hours. The reaction mixture is evaporated under reduced pressure and the residue thus obtained is dissolved in 100 cm3 of ethyl acetate, transferred into a separating funnel and washed with 50 cm3 of distilled water. The aqueous phase is re-extracted with twice 50 cm3 of ethyl acetate, and the combined organic phases are washed successively with 50 cm3 of saturated aqueous sodium chloride solution and 50 cm3 of distilled water. The organic extract is dried over magnesium sulfate, filtered and evaporated under reduced pressure to give the crude compound, which is purified by chromatography on a Flash Chromabond RS 6 SiOH cartridge (3 g of silica). The elution was performed at a flow rate of 10 cm3/min with a heptane/isopropanol mixture (70/30 by volume). The fractions containing the expected compound are combined and evaporated to give 2-[5,6-dimethoxy-1-methyl-1H-indol-3-yl]-4-methyl-1H-pyrrolo[2,3-b]pyridine in the form of a pasty yellow solid (0.008 g, 8%), the characteristics of which are as follows:

reactant | potassium hydroxide | 5N | [OH-].[K+]
reactant | 2-[5,6-dimethoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-4-methyl-1H-pyrrolo[2,3-b]pyridine | 0.13 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2C)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H25N3O4S
solvent | methanol | 15 cm3 | CO | CH4O
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | 2-[5,6-dimethoxy-1-methyl-1H-indol-3-yl]-4-methyl-1H-pyrrolo[2,3-b]pyridine | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2C)N1 | C19H19N3O2
